US07056917B2
(F) N8-[4-(tert-Butyl)-1,3-thiazol-2-yl]-3-formyl-2-morpholino-4-oxo-4H-pyrido[1,2-a]-pyrimidine-8-carboxamide
Dimethylformamide (1 ml) was added dropwise with phosphorus oxychloride (66 μl, 0.712 mmol) under ice cooling, then warmed to room temperature, and stirred for 15 minutes. The reaction solution was cooled to 0° C. with ice, added with N8-[4-(tert-butyl)-1,3-thiazol-2-yl]-2-morpholino-4-oxo-4H-pyrido[1,2-a]pyrimidine-8-carboxamide (147 mg, 0.356 mmol) dissolved in dimethylformamide (4 ml) under ice cooling, and stirred at 0° C. for 2 hours and 30 minutes. The reaction solution was neutralized with saturated aqueous sodium hydrogencarbonate and concentrated under reduced pressure. The resulting residue was added with chloroform for extraction, and the organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by thin layer silica gel chromatography (chloroform:methanol=40:1) to obtain 98.2 mg of the title compound as yellow crystals in a mixture with dimethylformamide.

reactant | phosphorus oxychloride | 0.712 mmol, 66 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N8-[4-(tert-butyl)-1,3-thiazol-2-yl]-2-morpholino-4-oxo-4H-pyrido[1,2-a]pyrimidine-8-carboxamide | 0.356 mmol, 147 mg | C(C)(C)(C)C=1N=C(SC1)NC(=O)C1=CC=2N(C(C=C(N2)N2CCOCC2)=O)C=C1 | C20H23N5O3S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | Dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N8-[4-(tert-Butyl)-1,3-thiazol-2-yl]-3-formyl-2-morpholino-4-oxo-4H-pyrido[1,2-a]-pyrimidine-8-carboxamide | 98.2 mg | C(C)(C)(C)C=1N=C(SC1)NC(=O)C1=CC=2N(C(C(=C(N2)N2CCOCC2)C=O)=O)C=C1 | C21H23N5O4S
